US07067517B2
4-Benzotriazol-1-yl-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-piperidin-4-yl-1H-benzotriazole, hydrochloride, 5 equivalent of diisopropylamine was added, praeparative HPLC (Method C) (7%, colourless crystals). HPLC-MS m/z=506.2 (M+1), Rt: 4.56 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-piperidin-4-yl-1H-benzotriazole, hydrochloride | Cl.N1CCC(CC1)N1N=NC2=C1C=CC=C2
reactant | diisopropylamine | 5 equivalent | C(C)(C)NC(C)C | C6H15N
product | 4-Benzotriazol-1-yl-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N1N=NC2=C1C=CC=C2)(F)F | C24H20F3N5O3
